US09193721B2
Step E: tert-Butyl 4-{6-[(formylamino)methyl]-3-(methoxycarbonyl)pyridin-2-yl}piperazine-1-carboxylate
Formic acid (2.2 mL, 58 mmol) and acetic anhydride (5.2 mL, 58 mmol) were stirred at room temperature for 1 hour. The mixture was added dropwise to a solution of tert-butyl 4-[6-(aminomethyl)-3-(methoxycarbonyl)pyridin-2-yl]piperazine-1-carboxylate hydrochloride (4.9 g, 13 mmol) in methylene chloride (90 mL) at 0° C. and stirred for 48 hours. Evaporation gave the crude material which was treated with sodium bicarbonate and extracted with methylene chloride to give the desired compound (4.9 g, 100%). LCMS calculated for C18H27N4O5 (M+H)+: m/z=379.2. found: 378.9.

reactant | Formic acid | 58 mmol, 2.2 mL | C(=O)O | CH2O2
reactant | acetic anhydride | 58 mmol, 5.2 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | tert-butyl 4-[6-(aminomethyl)-3-(methoxycarbonyl)pyridin-2-yl]piperazine-1-carboxylate hydrochloride | 13 mmol, 4.9 g | Cl.NCC1=CC=C(C(=N1)N1CCN(CC1)C(=O)OC(C)(C)C)C(=O)OC
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 90 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 4-{6-[(formylamino)methyl]-3-(methoxycarbonyl)pyridin-2-yl}piperazine-1-carboxylate | 4.9 g, 100% | C(=O)NCC1=CC=C(C(=N1)N1CCN(CC1)C(=O)OC(C)(C)C)C(=O)OC | C18H26N4O5
